US05840751
5,6-Dihydro-4-hydroxy-6,6-diphenyl-3-phenylmethyl-2H-pyran-2-one.
The title compound was prepared as described in General Method 8 using the following: 5,6-dihydro-4-hydroxy-6,6-diphenyl-2H-pyran-2-one (0.250 g, 0.940 mmol), Et3N (0.13 mL, 0.94 mmol), benzoyl chloride (0.109 mL, 0.94 mmol), CH2Cl2 (2.0 mL), acetonitrile (5.0 mL), acetone cyanohydrin (0.01 mL, 0.09 mmol), Et3N (0.27 mL, 1.9 mmol), glacial acetic acid (10.0 mL), sodium cyanoborohydride (0.133 g, 2.11 mmol). Purification was achieved by submitting the final residue to column chromatograpy (SiO2, 4/1 hexane/ethyl acetate to 3/2 hexane /ethyl acetate) to provide a solid (0.105 g, 63°-65° C.). 1H NMR (400 MHz, DMSO-d6) δ 11.136 (s, 1 H), 7.501-7.280 (m, 11 H), 6.997-6.932 (m, 2 H), 6.566 (d, 2 H, J=7 Hz), 3.530 (s, 2 H), 3.432 (s, 2 H).

reactant | 5,6-dihydro-4-hydroxy-6,6-diphenyl-2H-pyran-2-one | 0.940 mmol, 0.250 g | OC1=CC(OC(C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H14O3
reactant | Et3N | 0.94 mmol, 0.13 mL | CCN(CC)CC | C6H15N
reactant | benzoyl chloride | 0.94 mmol, 0.109 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | acetone cyanohydrin | 0.09 mmol, 0.01 mL | CC(C#N)(O)C | C4H7NO
reactant | Et3N | 1.9 mmol, 0.27 mL | CCN(CC)CC | C6H15N
reactant | sodium cyanoborohydride | 2.11 mmol, 0.133 g | C(#N)[BH3-].[Na+]
solvent | acetic acid | 10.0 mL | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 5.0 mL | C(C)#N | C2H3N
solvent | CH2Cl2 | 2.0 mL | C(Cl)Cl | CH2Cl2
product | 5,6-Dihydro-4-hydroxy-6,6-diphenyl-3-phenylmethyl-2H-pyran-2-one | OC1=C(C(OC(C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)CC1=CC=CC=C1 | C24H20O3
